US06229020B1
Synthesis of (E) 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid p-nitrophenyl ester
Into 20 ml of dichloromethane, 0.57 g (2.5 mmol) of (E)3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid and 0.52 g (3.8 mmol) of p-nitrophenol (manufactured by Wako Pure Chemical Industries, Ltd.) were dissolved; and 20 mg of dimethylaminopyridine (manufactured by Wako Pure Chemical Industries, Ltd.) were added thereto. Thereafter, while the mixture was stirred under cooling with ice, 0.71 g (3.8 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDC-HCl) (manufactured by Wako Pure Chemical Industries, Ltd.) was added thereto in portions. The liquid was returned to room temperature and then was stirred for 20 hours. After the end point of this reaction was verified by TLC, the reaction liquid was concentrated under a reduced pressure and then was dissolved in 100 ml of ethyl acetate. This solution was washed several times with a 5% aqueous sodium hydrogencarbonate solution and then with a saturated aqueous sodium chloride solution, and was dried with magnesium sulfate anhydride. Thereafter, the solvent was evaporated, whereby a crude product was obtained. This product was recrystallized from ethanol, whereby 0.69 g of the aimed product was obtained as a crystal (yield: 80%).

reactant | (E)3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid | 2.5 mmol, 0.57 g | NC=1C=CC=2C(=CC=C(C2)/C=C(/C(=O)O)\C)C1 | C14H13NO2
reactant | p-nitrophenol | 3.8 mmol, 0.52 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 3.8 mmol, 0.71 g | Cl.C(C)N=C=NCCCN(C)C
catalyst | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid p-nitrophenyl ester | 0.69 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)N)C)=O | C20H16N2O4
